US07776872B2
To a stirring solution of 3-aminonaphthol (5.41 g, 34 mmol) in 25 g of crushed ice, 30 mL of water and 10 mL of concentrated HCl at 10° C. was slowly added a solution of sodium nitrate (2.46 g, 36 mmol) in 10 mL water. A solution of potassium iodide (6.21 g, 37 mmol) in 20 mL water was slowly added with stirring at 10° C. The reaction mixture was stirred for 16 hours at room temperature, then diluted with diethyl ether and washed with water and 10% aqueous sodium sulfite solution. The organic layer was filtered through a Celite pad and the filtrate was concentrated under reduced pressure. The residue was chromatographed on silica (15% EtOAc/hexanes) to give 2.0 g of 3-iodo-naphthalen-2-ol.

reactant | 3-aminonaphthol | 34 mmol, 5.41 g | NC=1C=C(C2=CC=CC=C2C1)O | C10H9NO
reactant | sodium nitrate | 36 mmol, 2.46 g | [N+](=O)([O-])[O-].[Na+]
reactant | potassium iodide | 37 mmol, 6.21 g | [I-].[K+]
solvent | water | 30 mL | O | H2O
solvent | HCl | 10 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-iodo-naphthalen-2-ol | 2.0 g | IC=1C(=CC2=CC=CC=C2C1)O | C10H7IO
